US04548932
To a solution of sodium (0.48 g) in ethanol (10 ml) are added ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)butyrate (5.3 g) and diethyl oxalate (2.8 g). The mixture is evaporated under reduced pressure at 60°-70° C. for 30 minutes. After cooling, water (300 ml) is added to the brown residue, and the resulting mixture is acidified with 1N hydrochloric acid and extracted with ethyl acetate (100 ml×2). The organic extract is dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue is dissolved in a mixture of dimethylsulfoxide (45 ml), water (5 ml) and lithium chloride (0.8 g). The resulting mixture stirred for 1.5 hours at 135°-140° C. and then for 30 minutes at 140°-145° C. After cooling, the mixture is diluted with water (500 ml) and extracted with ethyl acetate (300 ml). The extract is dried over anhydrous magnesium sulfate and concentrated in vacuo to give ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)-2-oxovalerate (5 g) as an oil.

reactant | sodium | 0.48 g | [Na] | Na
reactant | ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)butyrate | 5.3 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCC(=O)OCC | C19H27NO4
reactant | diethyl oxalate | 2.8 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)-2-oxovalerate | 5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCC(C(=O)OCC)=O | C20H27NO5
